US07109228B2
2-Chloro-1,3-dicyclopropyl-1,3-propanedione
Trimethylsilyl chloride (16.6 ml, 130 mmol) was added to a solution of tert-butylammonium bromide (0.70 g, 2.17 mmol) in acetonitrile (50 ml) under nitrogen at 0° C. 1,3-Dicyclopropyl-propane-1,3-dione (ref: WO98155438) (6.62 g, 43.5 mmol) in acetonitrile (15 ml) was then added followed by dimethylsulfoxide (9.25 ml, 130 mmol) dropwise, and the reaction was allowed to warm to room temperature over 4 hours. The mixture was diluted with water (75 ml), extracted with diethylether (3×35 ml) and the combined organic extracts dried over magnesium sulphate and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with pentane:diethylether (95:5, by volume) to provide the title compound (3.76 g) as an oil, which was an 80:20 mixture of enol:keto forms.

reactant | Trimethylsilyl chloride | 130 mmol, 16.6 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | tert-butylammonium bromide | 2.17 mmol, 0.70 g | [Br-].C(C)(C)(C)[NH3+]
reactant | 1,3-Dicyclopropyl-propane-1,3-dione | 43.5 mmol, 6.62 g | C1(CC1)C(CC(=O)C1CC1)=O | C9H12O2
reactant | dimethylsulfoxide | 130 mmol, 9.25 ml | CS(=O)C | C2H6OS
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | water | 75 ml | O | H2O
product | 2-Chloro-1,3-dicyclopropyl-1,3-propanedione | 3.76 g | ClC(C(=O)C1CC1)C(=O)C1CC1 | C9H11ClO2
